US05439917
A solution of 28.4 mg (0.17 mmol) of 3-chloro-2-methyl pyrrolo [2,3-b]pyridine and 36 mg (0.2mmol) of (2bromoethyl)benzene in 0.4 ml of dimethylformamid was heated at 80° C. for 20 h. The solvent was evaporated. The solid that formed was treated with ethyl acetate and isolated by filtration to give 30 mg (50%) of 3 -chloro-2-methyl-7-(2-phenylethyl)pyrrolo[2,3-b]pyridine hydrobromide.

reactant | 3-chloro-2-methyl pyrrolo [2,3-b]pyridine | 0.17 mmol, 28.4 mg | ClC1=C(NC2=NC=CC=C21)C | C8H7ClN2
reactant | (2bromoethyl)benzene | 0.2mmol, 36 mg | BrCCC1=CC=CC=C1 | C8H9Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamid | 0.4 ml | CN(C=O)C | C3H7NO
product | 3 -chloro-2-methyl-7-(2-phenylethyl)pyrrolo[2,3-b]pyridine hydrobromide | 30 mg, 50% | Br.ClC1=C(N=C2N(C=CC=C21)CCC2=CC=CC=C2)C | InChI=1S/C16H15ClN2.BrH/c1-12-15(17)14-8-5-10-19(16(14)18-12)11-9-13-6-3-2-4-7-13;/h2-8,10H,9,11H2,1H3;1H
